US07696223B2
c) {[4-Cyano-7-hydroxy-2-(3-methoxy-phenyl)-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid
A mixture of 4-cyano-7-hydroxy-2-(3-methoxy-phenyl)-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (34 mg, 0.10 mmole) and glycine (538 mg, 7.16 mmole) in 0.5 M sodium methoxide/methanol (9.5 ml) was refluxed for 21 h before it was cooled to room temperature and concentrated in vacuo. The residue was dissolved in water (25 ml) and extracted twice with dichloromethane. The remaining aqueous layer was acidified to pH=3 with 1N HCl (7 ml). The suspension was extracted with ethyl acetate and dichloromethane. The organic layers were combined and washed with water, dried over anhydrous sodium sulfate and concentrated in vacuo to give the title compound as a yellow solid (34 mg). MS: (+) m/z 385.17 (M+1), MS: (−) m/z 383.13 (M−1).

reactant | 4-cyano-7-hydroxy-2-(3-methoxy-phenyl)-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.10 mmole, 34 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)C#N)N=C(S2)C2=CC(=CC=C2)OC)O | C17H13N3O4S
reactant | glycine | 7.16 mmole, 538 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 9.5 ml | C[O-].[Na+].CO
product | {[4-Cyano-7-hydroxy-2-(3-methoxy-phenyl)-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid | 34 mg | C(#N)C1=NC(=C(C2=C1N=C(S2)C2=CC(=CC=C2)OC)O)C(=O)NCC(=O)O | C17H12N4O5S
